Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of DM, obesity, 
hypertension, presenting with RLE erythema, pain, fevers and 
chills.

He reports that he developed RLE pain and burning sensation the 
morning of admission. He then developed RLE erythema, fevers and 
chills and came to the hospital.

In the ED, initial vitals were: 100.4 (Tmax 101.3), ___, 16, 97% RA 

Labs notable for a leukocytosis with neutrophil predominance.

Imaging notable for:

RLE ___:
1. No evidence of deep venous thrombosis in the right lower 
extremity veins.
2. Nonvisualization of the posterior tibial and peroneal veins.

Patient was given:

___ 20:27 IVF 1000 mL NS 1000 mL
___ 20:27 PO/NG LORazepam .5 mg
___ 21:50 IV Ampicillin-Sulbactam 3 g
___ 21:50 PO Acetaminophen 1000 mg

On the floor, patient is sleeping comfortably. On waking, he has 
no complaints and reports that his leg pain is better.
 
Past Medical History:
Obesity
Hypertension
Diabetes not on insulin
OSA (not on CPAP)
 
Social History:
___
Family History:
Father with hypertension. Mothers side with diabetes.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
Vital Signs: 98.3, 132/73, 22, 116, 96 RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
CV: Regular rhythm, tachycardic normal S1 + S2, no murmurs, 
rubs, gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Evidence of chronic venous stasis bilaterally with outlined 
area on the right leg which is warm, erythematous, and tender. 
Bilateral lower extremity edema.
 

DISCHARGE PHYSICAL EXAM
=====================
Vitals: 99.5 ___ 20 97%RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
CV: Regular rhythm, tachycardic normal S1 + S2, no murmurs, 
rubs, gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Evidence of chronic venous stasis bilaterally with R worse 
then left outlined area on the right leg which is warm, 
erythematous, and non-tender. Bilateral lower extremity edema 
with R worse than left.
 
Pertinent Results:
ADMISSION LABS
=============
___ 08:05PM BLOOD WBC-15.4* RBC-5.61 Hgb-15.4 Hct-47.1 
MCV-84 MCH-27.5 MCHC-32.7 RDW-14.3 RDWSD-43.5 Plt ___
___ 08:05PM BLOOD Neuts-83.8* Lymphs-8.0* Monos-6.6 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-12.92* AbsLymp-1.23 
AbsMono-1.02* AbsEos-0.11 AbsBaso-0.04
___ 08:05PM BLOOD Glucose-254* UreaN-12 Creat-0.8 Na-131* 
K-4.2 Cl-94* HCO3-25 AnGap-16
___ 08:18PM BLOOD Lactate-2.1*

DISCHARGE AND PERTINENT LABS
==========================
___ 06:25AM BLOOD WBC-11.3* RBC-5.01 Hgb-13.9 Hct-42.8 
MCV-85 MCH-27.7 MCHC-32.5 RDW-14.6 RDWSD-45.3 Plt ___
___ 06:25AM BLOOD Glucose-214* UreaN-7 Creat-0.7 Na-134 
K-3.9 Cl-97 HCO3-26 AnGap-15
___ 06:25AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.9

MICROBIOLOGY
============
___ 8:05 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 8:35 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 

IMAGING
======

___ R lower extremity venous ultrasound
IMPRESSION:

1. No evidence of deep venous thrombosis in the right lower 
extremity veins.
2. Nonvisualization of the posterior tibial and peroneal veins.
 
Brief Hospital Course:
Patient is a ___ with DM, HTN, obesity presenting will RLE 
cellulitis.

#Right leg cellulitis - encompassing area over shin superimposed 
on chronic venous stasis changes. Patient presented febrile to 
the ED. Was tachycardic with leukocytosis. Received IV fluids 
and started on IV Unasyn. Remained afebrile afterwards with 
improvement of leukocytosis and symptoms. Was transitioned to 
oral augmentin to complete a 10 day course on ___. 

#Diabetes Mellitus - patient has a history of type 2 diabetes 
and is supposed to be taking metformin at home. However, he 
doesn't take it at all. He should re-establish care and 
follow-up with a PCP.

#Hypertension - patient prescribed lisinopril however has not 
been taking. Should follow-up with PCP and restart therapy.

#Pseudohyponatremia - patient with hyponatremia to 132 on 
admission however is within normal when adjusted for an elevated 
glucose ~210. 

TRANSITIONAL ISSUES
===================
- obtain renal chemistry panel at follow up
- ensure patient takes medications as prescribed
- re-address hypertension and diabetes treatment with patient 
CODE: Full
Contact: Mother ___ ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 9 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*17 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Right leg cellulitis

SECONDARY DIAGNOSES
===================
Hypertension
Diabetes Mellitus type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to us after you 
developed right leg pain, redness, and swelling. Upon work-up we 
found that you have an infection of the soft tissues of the skin 
called cellulitis. Initially you were treated with IV 
antibiotics and then switched to oral augmentin. You will 
continue taking it until ___. 
You will follow-up with your primary care doctor to assess your 
leg and to obtain further primary care. Please discuss with him 
restarting your treatment for diabetes and high blood pressure.
If your symptoms get worse please call your doctor.

We wish you the best of health,

Your ___ Care Team
 
Followup Instructions:
___